US05610144
At a temperature in the vicinity of 25° C., 0.12 g of potassium hydroxide is added to a solution of 0.95 g of methyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}phenylacetate in 6 cm3 of a water/methanol (30/70 by volume) mixture. The reaction mixture is stirred for 3 hours at a temperature in the vicinity of 25° C. then concentrated to about half under reduced pressure. The solution obtained is diluted with 40 cm3 of water, washed with 2 times 30 cm3 of ethyl ether, then brought to a pH of 2 by addition of 2.1 cm3 of a 1N aqueous sulphuric acid solution. The insoluble product is separated by filtration and purified by chromatography on silica [eluent: ethyl acetate/methanol (90/10 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. The amorphous product thus obtained (0.26 g) is dissolved in a 1N aqueous sodium hydroxide solution. This solution is filtered, then acidified by addition of a 1N aqueous sulphuric acid solution. The product thus precipitated is separated by filtration, washed with 3 times 10 cm3 of water, then dried in air. 0.26 g of (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}phenylacetic acid, melting at 110° C., is thus obtained ([α]D20 =+51.1°±1.6° (C=0.528%; DMF), [proton NMR (200 MHz, DMSO D6 plus several drops of CD3COOD, δ in ppm, J in Hz), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 1.55 (s, 9H, --C(CH3)3); 3.34 and 3.52 (2dd, J=12.5 and 6.5, 2H, S--CH2 --); 3.51 (s, 2H, ArCH2COO--); 3.8 and 4.07 (2d, J=17.5, 2H, N--COCH2 --N); 5.02 (t, J=6.5, N--CH--COO); 6.55 (s, 1H, S--CH--N); 6.85 (bd, J=8, 1H, in position 4 on CO--NH--Ph); 7.05 to 7.4 (m, 6H, aromatic); 7.93 (bt, J=8.5, 1H, in position 6 on S--CH--Ph--)], [infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2980, 2930, 2700 to 2250 (broad band), 1735, 1610, 1615, 1595, 1560, 1490, 1460, 1370, 1230, 1155, 760, 705].

reactant | potassium hydroxide | 0.12 g | [OH-].[K+]
reactant | methyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}phenylacetate | 0.95 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C=CC1)CC(=O)OC)=O)=O | C26H30FN3O6S
solvent | water methanol | 6 cm3 | O.CO
solvent | water | 40 cm3 | O | H2O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}phenylacetic acid | 0.26 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O | C25H28FN3O6S
